US07858784B2
Synthesis of N-(4-(1H-pyrrol-1-yl)phenyl)-2,5-dimethylaniline (FIG. 9, Table 5, Entry 1)
Following general procedure A, a mixture of 4-(1H-pyrrol-1-yl)phenylmethanesulfonate (119 mg, 0.5 mmol), 2,5-dimethylaniline (75 μL, 0.6 mmol), K2CO3 (97 mg, 0.7 mmol), 10 (4 mg, 1 mol %), 1 (2.5 mg, 1 mol %), and t-BuOH (6 mL) was heated to 110° C. for 16 h. The crude product was purified via the Biotage SP4 (silica-packed 25+M; 0-30% EtOAc/hexanes) to provide the title compound as a white solid (138 mg, 95%), mp 97-98° C. 1H NMR (300 MHz, CDCl3) δ: 7.31 (d, J=9.0 Hz, 2H), 7.14 (d, J=7.5 Hz, 1H), 7.04 (m, 5H), 6.82 (d, J=7.5 Hz, 1H), 6.37 (t, J=2.5 Hz, 2H), 5.40 (s, 1H), 2.33 (s, 3H), 2.27 (s, 3H) ppm. 13C NMR (75 MHz, CDCl3) δ: 142.4, 141.1, 136.9, 134.4, 131.2, 125.6, 123.3, 122.3, 119.9, 119.8, 118.5, 110.0, 21.5, 17.8 ppm. IR (neat, cm−1): 3386, 2920, 1519, 1310, 1072, 829, 726. Anal. Calcd. for C18H18N2: C, 82.41; H, 6.92. Found: C, 82.03; H, 7.03.

reactant | 4-(1H-pyrrol-1-yl)phenylmethanesulfonate | 0.5 mmol, 119 mg | N1(C=CC=C1)C1=CC=C(C=C1)CS(=O)(=O)[O-]
reactant | 2,5-dimethylaniline | 0.6 mmol, 75 μL | CC1=C(N)C=C(C=C1)C | C8H11N
reactant | K2CO3 | 0.7 mmol, 97 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | t-BuOH | 6 mL | CC(C)(C)O | C4H10O
product | N-(4-(1H-pyrrol-1-yl)phenyl)-2,5-dimethylaniline | 138 mg, 95% | N1(C=CC=C1)C1=CC=C(C=C1)NC1=C(C=CC(=C1)C)C | C18H18N2
